US04391827
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-cyclohex-2-en-1-ol
To a -18° C. solution of 70.0 g (0.20 mol) of 3-[4-(1,1-dimethylheptyl]-2-hydroxyphenyl]-cyclohex-2-enone in 200 ml of methanol is added 7.6 g (0.20 mol) of sodium borohydride. The reaction mixture is stirred for 30 minutes and then added to one liter of saturated sodium chloride-one liter of ether. The ether extract is washed once with 500 ml of saturated sodium chloride, dried over magnesium sulfate and evaporated. The residue is purified via column chromatography on 500 g of silica gel eluted with 50% ether-pentane to yield the title compound.

reactant | 3-[4-(1,1-dimethylheptyl]-2-hydroxyphenyl]-cyclohex-2-enone | 0.20 mol, 70.0 g | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1=CC(CCC1)=O)O | C21H30O2
reactant | sodium borohydride | 0.20 mol, 7.6 g | [BH4-].[Na+]
reactant | sodium chloride | one liter | [Cl-].[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methanol | 200 ml | CO | CH4O
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]-cyclohex-2-en-1-ol | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1=CC(CCC1)O)O | C21H32O2
